US06433175B1
5-Chloro-1-(3-chloropropyl)indole-3-carboxaldehyde
To a stirred mixture of powdered potassium hydroxide (85%, 2.6 g, 39 mmol) in methyl sulfoxide (20 mL) was added dropwise a solution of 5-chloroindole-3-carboxaldehyde (3.5 g, 19 mmol) in methyl sulfoxide (5 mL). The mixture was stirred for 30 min and 1-bromo-3-chloropropane (2.9 mL, 29 mmol) was added dropwise. The mixture was stirred for 1 h and partitioned between ethyl acetate (3×40 mL) and water (100 mL). The combined organic extracts were washed (water, brine), dried (sodiurn sulfate) and concentrated in vacuo. The solid residue was recrystallised (2-propanol) to give the product as a white solid (4.1 g, 82%): mp 107-108° C.; Found: C, 56.51; H, 4.26; N, 5.44%. C12H11Cl2NO requires: C, 56.27; H, 4.33; N, 5.47%.

reactant | potassium hydroxide | 39 mmol, 2.6 g | [OH-].[K+]
reactant | 5-chloroindole-3-carboxaldehyde | 19 mmol, 3.5 g | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | 1-bromo-3-chloropropane | 29 mmol, 2.9 mL | BrCCCCl | C3H6BrCl
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 5-Chloro-1-(3-chloropropyl)indole-3-carboxaldehyde | 4.1 g, 82% | ClC=1C=C2C(=CN(C2=CC1)CCCCl)C=O | C12H11Cl2NO
